US07713994B2
To a suspension of 4-Methoxymethylene-4H-isoquinoline-1,3-dione (203 mg, 1.0 mmol) in N,N-dimethylformamide (2.5 mL) is added 1,4-phenylenediamine (108 mg, 1.0 mmol). The reaction mixture is shaken at 115° C. for 1.5 hours. Upon cooling to ambient temperature, product precipitated out of solution. The product is recovered by filtration, rinsing with diethyl ether, and drying to yield 205.9 mg 4-[(4-Amino-phenylamino)-methylene]-4H-isoquinoline-1,3-dione.

reactant | 4-Methoxymethylene-4H-isoquinoline-1,3-dione | 1.0 mmol, 203 mg | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 1,4-phenylenediamine | 1.0 mmol, 108 mg | C1(=CC=C(C=C1)N)N | C6H8N2
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 4-[(4-Amino-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 205.9 mg | NC1=CC=C(C=C1)NC=C1C(NC(C2=CC=CC=C12)=O)=O | C16H13N3O2
